US08609675B2
Step C—Synthesis of 7-Chloro-5-(tetrahydro-2H-thiopyran-4-yl)pyrazolo[1,5-a]pyrimidine (Int-1c)
To a mixture of 5-(tetrahydro-2H-thiopyran-4-yl)pyrazolo[1,5-a]pyrimidin-7-ol (Int-1b, 1.50 g, 6.38 mmol) and dimethylaniline (2.0 mL, 15 mml) was added phosphoryl trichloride (20 mL). The mixture was heated at 50° C. for 5 h and concentrated. The residue was diluted with methylene chloride (50 mL) and quenched with saturated NaHCO3 (50 mL). The mixture was separated and the aqueous layer was extracted with methylene chloride (50 mL×2). The combined organic layers were dried over Na2SO4, filtered and concentrated. The residue was purified by Biotage (CH2Cl2/EtOAc, 20:1 to 4:1). LC/MS RT=1.92 Min (5 min method). Mass calculated for, M+H 254.04, observed 254.04.

reactant | 5-(tetrahydro-2H-thiopyran-4-yl)pyrazolo[1,5-a]pyrimidin-7-ol | 6.38 mmol, 1.50 g | S1CCC(CC1)C1=NC=2N(C(=C1)O)N=CC2 | C11H13N3OS
reactant | dimethylaniline | 2.0 mL | CN(C1=CC=CC=C1)C | C8H11N
reactant | phosphoryl trichloride | 20 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 7-Chloro-5-(tetrahydro-2H-thiopyran-4-yl)pyrazolo[1,5-a]pyrimidine | ClC1=CC(=NC=2N1N=CC2)C2CCSCC2 | C11H12ClN3S
